US04786672
2,4-bis-(2-hydroxyethylamino)-6-(4-octylanilino)-1,3,5-triazine.
2,4-bis-(2-Hydroxyethylamino)-6-(3-hydroxyanilino)-1,3,5-triazine, 2,4-bis-(2-hydroxyethylamino)-6-(2-chloroanilino)-1,3,5-triazine, 2,4-bis-(2-hydroxyethylamino)-6-(3-chloroanilino)-1,3,5-triazine, 2,4-bis-(2-hydroxyethylamino)-6-(4-chloroanilino)-1,3,5-triazine and 2,4-bis-(2-hydroxyethylamino)-6-(3-methoxyanilino)-1,3,5-triazine are particularly preferred.

reactant | 2,4-bis-(2-Hydroxyethylamino)-6-(3-hydroxyanilino)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCO)NC1=CC(=CC=C1)O | C13H18N6O3
reactant | 2,4-bis-(2-hydroxyethylamino)-6-(2-chloroanilino)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCO)NC1=C(C=CC=C1)Cl | C13H17ClN6O2
reactant | 2,4-bis-(2-hydroxyethylamino)-6-(3-chloroanilino)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCO)NC1=CC(=CC=C1)Cl | C13H17ClN6O2
reactant | 2,4-bis-(2-hydroxyethylamino)-6-(4-chloroanilino)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCO)NC1=CC=C(C=C1)Cl | C13H17ClN6O2
reactant | 2,4-bis-(2-hydroxyethylamino)-6-(3-methoxyanilino)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCO)NC1=CC(=CC=C1)OC | C14H20N6O3
product | 2,4-bis-(2-hydroxyethylamino)-6-(4-octylanilino)-1,3,5-triazine | OCCNC1=NC(=NC(=N1)NCCO)NC1=CC=C(C=C1)CCCCCCCC | C21H34N6O2
